US04766147
480 mg (1.0 mmole) of 4-(3-t-butyldimethylsiloxy-1-octenyl)-5-(1-hydroxy-6-methoxycarbonylhexyl)-2-cyclopentenone was dissolved in 5 ml of dichloromethane, followed by addition of 730 mg (6 mmoles) of dimethylaminopyridine and 230 microliters (3.0 mmoles) of methanesulfonyl chloride in this order. The mixture was stirred at 40° C. for 2 hours. An aqueous solution of sodium bicarbonate was added, and the mixture was stirred with dichloromethane. The organic layers were combined, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The dried product was filtered, concentrated and subjected to silica gel column chromatography (silica gel 20 g; eluent, hexane:ethyl acetate=10:1) to give 114 mg (yield 25%) of 4-(3-t-butyldimethylsilyloxy-1-octenyl)-5-(6-methoxycarbonylhexylidene)-2-cyclopentenone. The resulting compound had the following spectral data.

reactant | 4-(3-t-butyldimethylsiloxy-1-octenyl)-5-(1-hydroxy-6-methoxycarbonylhexyl)-2-cyclopentenone | 1.0 mmole, 480 mg | O([Si](C)(C)C(C)(C)C)C(C=CC1C=CC(C1C(CCCCCC(=O)OC)O)=O)CCCCC | C27H48O5Si
reactant | dimethylaminopyridine | 6 mmoles, 730 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | methanesulfonyl chloride | 3.0 mmoles, 230 microliters | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(3-t-butyldimethylsilyloxy-1-octenyl)-5-(6-methoxycarbonylhexylidene)-2-cyclopentenone | 114 mg, yield 25% | [Si](C)(C)(C(C)(C)C)OC(C=CC1C=CC(C1=CCCCCCC(=O)OC)=O)CCCCC | C27H46O4Si
